Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Pleural effusion s/p chest tube placement
 
Major Surgical or Invasive Procedure:
Tunneled pleural catheter placement - ___

 
History of Present Illness:
___ yo ___ female, never smoker w/ PMH of Stage IIIA
endometrioid endometrial cancer in ___ s/p TAHBSO with adjuvant
chemoradiaton, HTN, HLD, osteoporosis who was found to have a L
sided pleural nodularity and recurrent left side pleural
effusion. A thoracentesis performed in ___ showed amber
fluid which has
returned positive for adenocarcinoma consistent with her prior
mullerian primary. She is now being admitted on medicine service
from the interventional pulmonology service after receiving a
left side tunnel pleural catheter placement today (___)
because, there was an air leak post-procedurally in the 
pleurovac
concerning for PTX.

Initial vitals were: 98.4 PO 147 / 77 85 18 96 RA 0 0   

- Labs notable for:  n/a

- Imaging notable for:  
___ CXR 12:11 ___
Further improvement in aeration of the left lung.  No evidence 
of

pneumothorax.  

___ 10:34 AM CXR 
Interval placement of a left chest tube with its terminal tip
projecting over the left apex.  No evidence of pneumothorax 

- IP who recommended admission for this patient s/p procedure
recommends:
Observation until air leak resolves
 
On the floor, patient is feeling very well and does not have any
shortness of breath. She has pain at the chest tube site. 

 
Past Medical History:
- hypertension
- hyperlipidemia
- osteoporosis
- history of postive PPD
- facial neuropathy
- post-partum tubal ligation

PAST SURGICAL HISTORY:
Hysterectomy

 
Social History:
___
Family History:
- No known family history of breast, uterine, ovarian,
cervical or colon cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VITALS:  98.4 PO 147 / 77 85 18 96 RA 
GENERAL: AOx3, NAD. Patient speaks toishanese, a dialect of
___
HEENT: MMM, Oropharynx is clear
NECK: Supple.  
CARDIAC: RRR. S1 and S2. No murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally with decreased  breath
sounds on the left. pleurex in place with c/d/I bandage
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.  
EXTREMITIES: No clubbing, cyanosis, or edema  
SKIN: No evidence of ulcers, rash or lesions 
NEUROLOGIC: CN2-12 intact. ___ strength througout. 

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 1533)
    Temp: 98.2 (Tm 99.1), BP: 133/72 (110-150/72-85), HR: 69
(67-97), RR: 18 (___), O2 sat: 95% (94-96), O2 delivery: RA,
Wt: 143.52 lb/65.1 kg  
GENERAL: AOx3, NAD. Patient speaks toishanese, a dialect of
___
HEENT: MMM, Oropharynx is clear
NECK: Supple.  
CARDIAC: RRR. S1 and S2. No murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally with decreased  breath
sounds on the left. pleurex in place with c/d/I bandage
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.  
EXTREMITIES: No clubbing, cyanosis, or edema  
SKIN: No evidence of ulcers, rash or lesions 
NEUROLOGIC: CN2-12 intact. ___ strength througout. 

 
Pertinent Results:
LABS
=====
___ 03:45AM BLOOD WBC-9.2# RBC-3.81* Hgb-11.7 Hct-34.1 
MCV-90# MCH-30.7 MCHC-34.3 RDW-12.5 RDWSD-41.0 Plt ___
___ 03:45AM BLOOD ___ PTT-25.4 ___
___ 03:45AM BLOOD Glucose-143* UreaN-9 Creat-0.7 Na-131* 
K-4.2 Cl-89* HCO3-27 AnGap-15
___ 03:45AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.7

IMAGING
=======
___ CXR

1- Small left apical pneumothorax is new compared to most recent 
chest 
radiograph. 
2- Persistent small left apical pneumothorax with a left chest 
tube which is partially in the major fissure. There is a small 
air-fluid collection in the left major fissure, best seen on 
lateral projection. No dependent effusion.  The right lung is 
clear. Heart is markedly enlarged, but unchanged. 
3- Left-sided chest tube is unchanged.  Small left apical 
pneumothorax is stable. Subsegmental atelectasis in the left 
lower lobe has slightly improved. Cardiomediastinal silhouette 
is stable.  There is mild interstitial edema. 

 
Brief Hospital Course:
___ yo ___ female, never smoker w/ PMH of Stage IIIA 
endometrioid endometrial cancer in ___ s/p TAHBSO with adjuvant 
chemoradiaton, HTN, HLD, osteoporosis who was found to have a L 
sided pleural nodularity and recurrent left side pleural 
effusion now s/p transpleural catheter placement admitted for 
air leak post-procedure concerning for a pneumothorax. She had 
multiple chest x-rays that showed a stable small apical left 
pneumothorax. 

ACUTE ISSUES:
=============
#TPC airleak
#Small apical pneumothorax
Patient has air leak in TPC placed ___ for concerns of PTX. 
Initial CXR without pneumothorax. Three x-rays on ___ showed a 
stable left apical pneumothorax that was asymptomatic. 

#L-sided pleural effusion
#Endometrioid endometrial cancer 
Previous drainage of her L-sided thoracentesis studies were 
positive for adenocarcinoma consistent with her prior Mullerian 
primary. 

CHRONIC ISSUES:
===============
#Osteoarthritis: 
Continue home alendronate

#Hypertension: stable
Continue home amlodipine, atenolol

#Hyperlipidemia: stable
Continue home simvastatin

#Facial neuropathy: stable
Continue home carbemazepine

TRANSITIONAL ISSUES
====================
[] Ensure follow up with interventional pulmonary for management 
of tunneled pleural catheter and left apical pneumothorax
[] Ensure follow up with oncology regarding malignancy

#Health care proxy/emergency contact: Name of health care proxy:
___ 
___: Son 
Phone number: ___ 
Comments: Daughter ___ ___-
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
2. CarBAMazepine 200 mg PO TID 
3. Atenolol 100 mg PO DAILY 
4. Alendronate Sodium 70 mg PO QSUN 
5. amLODIPine 10 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Calcium 500 + D (calcium carbonate-vitamin D3) 600 mg-400 mg  
oral BID 
8. Ranitidine 300 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Alendronate Sodium 70 mg PO QSUN  
3.  amLODIPine 10 mg PO DAILY  
4.  Atenolol 100 mg PO DAILY  
5.  Calcium 500 + D (calcium carbonate-vitamin D3) 600 mg-400 mg 
 oral BID  
6.  CarBAMazepine 200 mg PO TID  
7.  Ranitidine 300 mg PO QHS  
8.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Malignant pleural effusion
Pneumothorax

Secondary:
Metastatic endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after you had a tunneled pleural 
catheter placed. You had a small pneumothorax (air in the lung 
where it should not be). This was stable with multiple chest 
x-rays. The interventional pulmonary physicians felt this was 
safe to be monitored as an outpatient. 

You will continue your outpatient appointments with oncology and 
interventional pulmonary as planned.

It was a pleasure taking care of you. We wish you the best in 
your health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___